US04312876
Cis-1-ethoxycarbonyl-3-phenyl-4-(2-tolyloxy)piperidine
To a mixture of 6.23 g of trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol, 7.21 g of triphenylphosphine, 2.97 g of o-cresol and 250 ml of anhydrous benzene is added, dropwise at 5° C. under nitrogen over a 90 minute period, a solution of 4.79 g of diethyl azodicarboxylate in 250 ml of benzene. After the addition is complete the mixture is stirred overnight at room temperature. The solid is then filtered and washed with benzene and the filtrate concentrated in vacuo to an oil. The oil is triturated overnight in a stoppered flask with 250 ml of hexane. The hexane is decanted and the gummy solid is triturated with more hexane and the hexane solution is filtered. The hexane filtrate is washed with 10% aqueous sodium hydroxide solution (3×75 ml), 2 N hydrochloric acid (100 ml), water (100 ml), saturated sodium chloride solution (100 ml), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to a yellow gum. The gummy solid previously obtained is washed with ether. The ether filtrate is concentrated in vacuo and the residue is partitioned between 150 ml of hexane and 50 ml of 10% sodium hydroxide solution. The phases are separated. The hexane phase is washed with 10% sodium hydroxide solution, followed by 2 N hydrochloric acid solution (50 ml), water (100 ml), saturated sodium chloride solution (100 ml), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The resulting gum is combined with the previously obtained gum. Trituration of the gum with a 2:1 mixture of petroleum ether:ether affords a colorless solid. A second crop is obtained from the filtrate. Filtration through a silica gel plug using dichloromethane as solvent, followed by trituration with 2:1/petroleum ether:ether solution and filtration affords product as a colorless solid, mp 119.5°-121° C.

reactant | trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol | 6.23 g | C(C)OC(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C14H19NO3
reactant | triphenylphosphine | 7.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | o-cresol | 2.97 g | C1(=CC=CC=C1O)C | C7H8O
reactant | diethyl azodicarboxylate | 4.79 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | Cis-1-ethoxycarbonyl-3-phenyl-4-(2-tolyloxy)piperidine | C(C)OC(=O)N1C[C@H]([C@H](CC1)OC1=C(C=CC=C1)C)C1=CC=CC=C1 | C21H25NO3
